US04277477
Angewandte Chemie, 36 (1923), 159 and Berichte der deutschen Chemischen Gesellschaft, 58 (1925), 2,095 disclose that thionaphthene-2,3-dione may be reacted with ammonia and hydrogen peroxide to give 3-carbamyl-1,2-benzisothiazole and that 1,2-benzisothiazole may be obtained from the latter by hydrolysis and decarboxylation. Berichte, 56 (1923), 1,630 and Liebigs Annalen der Chemie, 454 (1927), 264 describe the reaction of 2-formyl-4-nitrophenylsulfenyl bromide with ammonia to give 5-nitro-1,2-benzisothiazole. Benzisothiazoles can also be synthesized by cyclizing o-mercapto-phenyl-carbonyl compounds in the presence of polyphosphoric acid (Annali di Chimica, 53 (1963), No. 5, 577-587). German Laid-Open Application DOS No. 1,670,196 discloses the reaction of dihalomethylaryl compounds with ammonia and sulfur to give benzisothiazoles. All these processes are unsatisfactory in respect to ease of access to the starting materials, economy, and simplicity of operation coupled with a good yield of end product.

reactant | 2-formyl-4-nitrophenylsulfenyl bromide | C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])SBr | C7H4BrNO3S
reactant | ammonia | N | H3N
product | 5-nitro-1,2-benzisothiazole | [N+](=O)([O-])C=1C=CC2=C(C=NS2)C1 | C7H4N2O2S
